US08461339B2
A. 2-(Isoquinolin-3-ylamino)-4-(4-benzyloxyacetylpiperazin-1-ylmethyl)pyridine
1-(2-Chloropyridin-4-ylmethyl)-4-benzyloxyacetylpiperazine (1.0 equiv) (Preparation B-16) was mixed with 3-aminoisoquinoline (1.0 equiv), Pd2(dba)3(0.1 equiv), xantphos (0.15 equiv), and Cs2CO3 (1.4 equiv) in toluene. The mixture was refluxed overnight, and EtOAc was added in to dilute the mixture. After filtration, the filtrate was concentrated and applied onto a silica gel column. The title compound was obtained as a yellow solid.

reactant | 1-(2-Chloropyridin-4-ylmethyl)-4-benzyloxyacetylpiperazine | 1.0 equiv | ClC1=NC=CC(=C1)CN1CCN(CC1)C(COCC1=CC=CC=C1)=O | C19H22ClN3O2
reactant | 3-aminoisoquinoline | 1.0 equiv | NC=1N=CC2=CC=CC=C2C1 | C9H8N2
reactant | xantphos | 0.15 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.4 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(Isoquinolin-3-ylamino)-4-(4-benzyloxyacetylpiperazin-1-ylmethyl)pyridine | C1=NC(=CC2=CC=CC=C12)NC1=NC=CC(=C1)CN1CCN(CC1)C(COCC1=CC=CC=C1)=O | C28H29N5O2
